US05580872
Step 2: 4-Chloro-5-fluoro-2-(N-methylaminomethyl)-pyridine
4-Chloro-5-fluoro-alpha-bromo-2-picoline (1.37 g, 6.1 mmol), from Step 1 was dissolved in 15 mL of methanol in a pressure tube. Methylamine (3 mL of 40% aqueous solution) was added to the tube and the tube was sealed. The reaction mixture was stirred at ambient temperature for 26 hours and then the solvent was removed under reduced pressure. To the residue was added 50 mL of 10% aqueous sodium carbonate solution and the resultant aqueous mixture was extracted with 3×50 mL of methylene chloride. The organic combined extract was dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The residue was dried in vacuo to give 754 mg g (70% yield) of the title compound; MS DCI-NH3M/Z: 175 (M+H)+ base; 1H NMR (CDCl3) d 2.50 (s, 3H), 3.90 (s, 2H), 7.47 (d, 1H), 8.42 (s, 1H).

reactant | 4-Chloro-5-fluoro-alpha-bromo-2-picoline | 6.1 mmol, 1.37 g | ClC1=CC(NC=C1F)(C)Br | C6H6BrClFN
reactant | Methylamine | 3 mL | CN | CH5N
solvent | methanol | 15 mL | CO | CH4O
product | 4-Chloro-5-fluoro-2-(N-methylaminomethyl)-pyridine | 70% yield | ClC1=CC(=NC=C1F)CNC | C7H8ClFN2
